US05652237
To a solution of 2-iodophenyl isocyanate (3.36 g, 13.7 mmol) in THF (250 mL) was added ethyl 2-aminobenzoate (5.1 mL, 34.5 mmol). The resulting mixture was stirred at room temperature for 8 hours, evaporated and chromatographed (silica gel, 10% EtOAc in hexanes) to give 4.4 g (78%) of ethyl 2-(2-iodophenylureido)benzoate as a white solid, mp 162°-164° C.

reactant | 2-iodophenyl isocyanate | 13.7 mmol, 3.36 g | IC1=C(C=CC=C1)N=C=O | C7H4INO
reactant | ethyl 2-aminobenzoate | 34.5 mmol, 5.1 mL | NC1=C(C(=O)OCC)C=CC=C1 | C9H11NO2
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | ethyl 2-(2-iodophenylureido)benzoate | 4.4 g, 78% | IC1=C(C=CC=C1)NC(NC1=C(C(=O)OCC)C=CC=C1)=O | C16H15IN2O3
